US06590127B1
In order to further increase the yield of α-asarone, an alternative route appears to prepare intermediate 1-(2,4,5-trimethoxy)phenyl-1-propanone (isoacroramone) by treating 2,4,5-trimethoxyphenylpropane with DDQ in aqueous organic solvent which upon treatment with sodium borohydride into 1-(2,4,5-trimethoxyphenyl-1-hydroxypropane followed by acidic dehydration towards formation of α-asarone. The structure of 1-(2,4,5-trimethoxy)phenyl-1-propanone, a crystalline solid (mp 109-110° C.), was confirmed on the basis of spectral data (Example IV) which is later on discovered as a naturally occurring rarer phenylpropanoid, isolated from Acorus tatarinowii as a light yellowish viscous gum, however, our method afforded isoacoramone as a crystalline solid with the similar spectral data as natural isoacoramone (Jinfeng, Hu and Xiaozhang, Feng, Planta Medica, 66, 662-664 (2000)). It is also worthwhile to mention that the formation of 1-(2,4,5-trimethoxyphenyl)-1-propanone in a single step from phenylalkane i.e. 2,4,5-trimethoxypropane opens new route for the synthesis of phenylpropanone derivatives which is, in fact, a mild, simple and free from drawbacks generally exist with reported synthetic methods and some of reported methods are:

reactant | α-asarone | C\C=C\C1=C(OC)C=C(OC)C(OC)=C1 | C12H16O3
reactant | 2,4,5-trimethoxyphenylpropane | COC1=C(C=C(C(=C1)OC)OC)CCC | C12H18O3
reactant | DDQ | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | sodium borohydride | [BH4-].[Na+]
reactant | 2,4,5-trimethoxyphenyl-1-hydroxypropane | COC1=C(C=C(C(=C1)OC)OC)C(CC)O | C12H18O4
product | isoacoramone | CCC(=O)C1=CC(=C(C=C1OC)OC)OC | C12H16O4
